US09303033B2
Tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate (225 mg, 0.67 mmol) and 4-amino-3-bromobenzonitrile (197 mg, 1 mmol) were dissolved in anhydrous THF (4.5 mL). Sodium tert-butoxide (96 mg, 1 mmol) was added in one portion. After 1.5 h, the reaction was poured into H2O (25 mL) and extracted with EtOAc (3×30 mL). The organics were washed with brine (1×100 mL), dried over MgSO4, filtered and concentrated in vacuo. The tan solid was purified via flash column chromatography (30% EtOAc/hexanes) to provide tert-butyl 5-(2-bromo-4-cyanophenylamino)-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate (106 mg, 32%) as a pale yellow solid. LCMS (ES): >90% pure, m/z 497 [M+1]+.

reactant | Tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate | 0.67 mmol, 225 mg | ClC1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)C1CC1)N=CC2C=O | C15H17ClN4O3
reactant | 4-amino-3-bromobenzonitrile | 1 mmol, 197 mg | NC1=C(C=C(C#N)C=C1)Br | C7H5BrN2
reactant | Sodium tert-butoxide | 1 mmol, 96 mg | CC(C)([O-])C.[Na+]
reactant | H2O | 25 mL | O | H2O
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-(2-bromo-4-cyanophenylamino)-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate | 106 mg, 32% | BrC1=C(C=CC(=C1)C#N)NC1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)C1CC1)N=CC2C=O | C22H21BrN6O3
